US06545049B1
To a solution of 3-(3,5-di-t-butyl-2-n-heptyloxyphenyl)-but-2-enenitrile (900 mg, 2.64 mmol) in EtOAc (5 mL) was added 10% Pd on carbon (20 mg, catalytic amount). The mixture was placed under vacuum for 1 min followed by addition of H2. After stirring for 24 h under an atmosphere of H2, the solution was filtered through celite. The celite washed with EtOAc (3×5 mL) and the solution was concentrated to give the reduced product 3-(3,5-di-t-butyl-2-n-heptyloxyphenyl)-butyronitrile 880 mg (97%): TLC (5% EtOAc-95% hexanes) Rf0.8; 1H-NMR (CDCl3) δ 7.00(d, J=2.2 Hz, 1H, Ar—H) 6.89(d, J=2.2 Hz, 1H Ar—H), 3.73 (t, J=6.5 Hz, 2H, OCH2), 3.52(m, 1H, CH), 3.27(m, 1H, CH), 2.86(m, 1H, CH), 2.63(m, 2H, CH2CN), 1.79(m, 2H, CH2), 1.50(m, 2H, CH2), 1.44(m, 6H, 3CH2), 1.39(d, J=13.2 Hz, 3H, CH3), 1.27(d, J=4.7 Hz, 2CH3), 1.21(d, J=4.7 Hz, 2CH3), 0.89(t, J=6.6 Hz, 3H, CH3).

reactant | 3-(3,5-di-t-butyl-2-n-heptyloxyphenyl)-but-2-enenitrile | 2.64 mmol, 900 mg | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C(=CC#N)C)OCCCCCCC | C25H39NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd on carbon | 20 mg | [Pd] | Pd
product | 3-(3,5-di-t-butyl-2-n-heptyloxyphenyl)-butyronitrile | 880 mg, 97% | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C(CC#N)C)OCCCCCCC | C25H41NO
